US07365085B2
c) (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-piperazin-1-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride salt
To a stirring solution of [4-{6-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (40 mg, 0.05 mmol) in methanol (0.8 ml) was added 1 N HCl in Et2O. The reaction mixture was stirred at RT for 4 h and concentrated under vacuum to provide the title compound as an off-white solid, 31 mg (91%). MS (ESI) 609.2 (M+).

reactant | 4-{6-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.05 mmol, 40 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C39H44ClF3N4O3
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 0.8 ml | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(6-piperazin-1-yl-pyridin-2-yloxy)-propyl]-amine hydrochloride salt | Cl.ClC1=C(CN(CCCOC2=NC(=CC=C2)N2CCNCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H36ClF3N4O.ClH/c35-33-28(14-7-15-30(33)34(36,37)38)24-41(25-29(26-10-3-1-4-11-26)27-12-5-2-6-13-27)20-9-23-43-32-17-8-16-31(40-32)42-21-18-39-19-22-42;/h1-8,10-17,29,39H,9,18-25H2;1H
